US07572808B2
A. Preparation of 6-((8-bromo-7-(4-chlorophenyl)-5-methyl-3-oxo-[1,2,4]triazolo[4,3-a]pyridine-2(3H)-yl)methyl)nicotinonitrile
To a stirring solution of 8-bromo-7-(4-chlorophenyl)-5-methyl-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (40 mg, 0.11 mmol) in DMF (0.25 mL) at room temperature under argon was added K2CO3 (50 mg, 0.36 mmol), followed by 6-(chloromethyl)nicotinonitrile (20 mg, 0.13 mmol). The reaction mixture was stirred at 70° C. for 1 h. The reaction mixture was cooled to room temperature, water (2 mL) and EtOAc (5 mL) were added. The layers were separated. The organic layer was dried (MgSO4), filtered, and concentrated under reduced pressure to obtain 55 mg of the title compound as a yellow solid. HPLC/MS: retention time=3.55 min, [M+H]+=454.

reactant | 8-bromo-7-(4-chlorophenyl)-5-methyl-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.11 mmol, 40 mg | BrC=1C=2N(C(=CC1C1=CC=C(C=C1)Cl)C)C(NN2)=O | C13H9BrClN3O
reactant | K2CO3 | 0.36 mmol, 50 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 6-(chloromethyl)nicotinonitrile | 0.13 mmol, 20 mg | ClCC1=NC=C(C#N)C=C1 | C7H5ClN2
reactant | water | 2 mL | O | H2O
solvent | DMF | 0.25 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | 6-((8-bromo-7-(4-chlorophenyl)-5-methyl-3-oxo-[1,2,4]triazolo[4,3-a]pyridine-2(3H)-yl)methyl)nicotinonitrile | 55 mg | BrC=1C=2N(C(=CC1C1=CC=C(C=C1)Cl)C)C(N(N2)CC2=NC=C(C#N)C=C2)=O | C20H13BrClN5O
